US05342846
1-Cyclopropyl-6,8-difluoro-7-[3-(1,2,3-triazol-1-yl)pyrrolidin -1-yl]-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid
A mixture of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid (138.5 mg, 0.486 mmol), DBU (190 mg, 1.25 mmol), and 3-(1,2,3-triazol-1-yl)pyrrolidine hydrochloride (216 mg, 1.25 mmol) in pyridine (8 ml) was heated for 20 h at 7580° C. and then pyridine was removed under vacuum. The residue was diluted with acetonitrile. The precipitated solid was washed with acetonitrile, ether and dried at 40° C. Yield: 65 mg (33%), m.p. 244°-246° C. (dec). 1H NMR (TFA) δ: 1.5 (m, 4H), 2.8 (m, 2H), 4.5 (m, 4H), 4.75 (bs, 1H), 5.8 (bs, 1H), 8.15 (d, 1H), 8.6 (s, 1H), 8.7 (s, 1H), 9.25 (s, 1H).

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 0.486 mmol, 138.5 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | DBU | 1.25 mmol, 190 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 3-(1,2,3-triazol-1-yl)pyrrolidine hydrochloride | 1.25 mmol, 216 mg | Cl.N1(N=NC=C1)C1CNCC1
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 1-Cyclopropyl-6,8-difluoro-7-[3-(1,2,3-triazol-1-yl)pyrrolidin -1-yl]-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(CC1)N1N=NC=C1)F)=O)C(=O)O | C19H17F2N5O3
